US06642389B2
c] 2-Methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-naphthalen-1-yl}-propionic acid
0.137 g of 2-Methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-naphthalen-1-yl}-propionic acid ethyl ester (0.298 mmol) was dissolved in 2 ml of THF/EtOH=1/1 and treated with 0.745 ml of 2N NaOH. The reaction mixture was kept for 24 h at ambient temperature and then quenched by pouring onto crashed ice/HCl. Twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents left a crude product, which was purified by twofold crystallisation from AcOEt/hexane to yield 0.076 g of the title compound as a white solid, mp.128-130°.

reactant | 2-Methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-naphthalen-1-yl}-propionic acid ethyl ester | 0.298 mmol, 0.137 g | C(C)OC(C(CC1=CC=C(C2=CC=CC=C12)OCCC=1N=C(OC1C)C1=CC=CC=C1)OC)=O | C28H29NO5
reactant | NaOH | 2N, 0.745 ml | [OH-].[Na+]
solvent | THF EtOH | 2 ml | C1CCOC1.CCO
product | 2-Methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-naphthalen-1-yl}-propionic acid | 0.076 g | COC(C(=O)O)CC1=CC=C(C2=CC=CC=C12)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C26H25NO5
